US06998486B2
1-Formyl-4-[2-(benzimidazol-2-ylthio)ethyl]piperazine (1.45 g, 5.0 mmol) was dissolved in methanol (20 mL) . 12N Hydrochloric acid (2 mL) was added to the solution, and the mixture was stirred for 18 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and the thus-formed solid material was crystallized from chloroform-methanol, to thereby yield 1.67 g of 1-[2-(benzimidazol-2-ylthio)ethyl]piperazine trihydrochloride (yield: 90%) as a colorless crystalline powder.

reactant | 1-Formyl-4-[2-(benzimidazol-2-ylthio)ethyl]piperazine | 5.0 mmol, 1.45 g | C(=O)N1CCN(CC1)CCSC=1NC2=C(N1)C=CC=C2 | C14H18N4OS
reactant | Hydrochloric acid | 12N, 2 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 1-[2-(benzimidazol-2-ylthio)ethyl]piperazine trihydrochloride | yield 1.67 g, yield: 90% | Cl.Cl.Cl.N1=C(NC2=C1C=CC=C2)SCCN2CCNCC2 | InChI=1S/C13H18N4S.3ClH/c1-2-4-12-11(3-1)15-13(16-12)18-10-9-17-7-5-14-6-8-17;;;/h1-4,14H,5-10H2,(H,15,16);3*1H
